US05104876
D. N-(1,1-dimethylethyl)-3,5-dimethyl-2-pyridinecarboxamide
Stir a solution of 2-cyano-3,5-dimethylpyridine (20.3 g, 0.153 mol) in 100 mL of acetic acid and 20 mL of conc. sulfuric acid over 10 minutes. Add t-butanol (20 ml.) over an additional 15 minutes. Warm the solution to 75° C. and maintain for 30 minutes. Cool to room temperature and basify with 25% NaOH. Extract the product (3X) with ethyl acetate (600 mL). Combine the organic portions and wash (1X) with brine. Dry (Na2SO4), filter and concentrate in vacuo to produce the title compound as a yellowish oil (31.26 g).

reactant | 2-cyano-3,5-dimethylpyridine | 0.153 mol, 20.3 g | C(#N)C1=NC=C(C=C1C)C | C8H8N2
reactant | t-butanol | 20 ml | C(C)(C)(C)O | C4H10O
reactant | NaOH | [OH-].[Na+]
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
solvent | sulfuric acid | 20 mL | S(O)(O)(=O)=O | H2O4S
product | N-(1,1-dimethylethyl)-3,5-dimethyl-2-pyridinecarboxamide | 31.26 g | CC(C)(C)NC(=O)C1=NC=C(C=C1C)C | C12H18N2O
